US07439260B2
Step 2: 7-bromo-4-(4-fluorophenyl)-8-methyl-2H-chromen-2-one
4-(4-fluorophenyl)-7-hydroxy-8-methyl-2-H-chromen-2-one, (4.47 g, 16.5 mol) and triphenylphosphine dibromide (7.68 g, 18.2 mmol) were heated in a sand bath at 320-350° C. for 0.5 h. The cooled mixture was dissolved in dichloromethane, silica gel was added and the mixture was evaporated. Chromatography on silica gel (hexane/EtOAC; 90:10), gave the title compound.

reactant | 4-(4-fluorophenyl)-7-hydroxy-8-methyl-2-H-chromen-2-one | 16.5 mol, 4.47 g | FC1=CC=C(C=C1)C1=CC(OC2=C(C(=CC=C12)O)C)=O | C16H11FO3
reactant | triphenylphosphine dibromide | 18.2 mmol, 7.68 g | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-bromo-4-(4-fluorophenyl)-8-methyl-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1C)=O)C1=CC=C(C=C1)F | C16H10BrFO2
